US08476255B2
Preparation of t-butyl-4-(2-aminophenylcarbamoyl)benzylcarbamate
To a suspension of 4-((t-butoxycarbonylamino)methyl)benzoic acid (6.08 g, 24.2 mmol) in DMF was added o-phenylene diamine (2.9 g, 29 mmol), EDCI (9.3 g, 48.4 mmol) and HOBt (3.8 g, 24.2 mmol). TEA (11.8 mL, 84.8 mmol) was added drop wise with constant stirring to the above reaction mixture, which was stirred at room temperature overnight. Subsequently, the reaction mixture was evaporated to half its volume; the resulting solution was dissolved in ethyl acetate, washed successively with saturated NaHCO3 (3×50 mL) and brine solution (3×50 mL). The organic layer was dried over Na2SO4 and concentrated to give the pure compound (4.6 g, 56% yield).

reactant | 4-((t-butoxycarbonylamino)methyl)benzoic acid | 24.2 mmol, 6.08 g | C(C)(C)(C)OC(=O)NCC1=CC=C(C(=O)O)C=C1 | C13H17NO4
reactant | o-phenylene diamine | 29 mmol, 2.9 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | EDCI | 48.4 mmol, 9.3 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 24.2 mmol, 3.8 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | CN(C)C=O | C3H7NO
product | t-butyl-4-(2-aminophenylcarbamoyl)benzylcarbamate | 4.6 g, 56% yield | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C(NC1=C(C=CC=C1)N)=O)=O | C19H23N3O3
